US08207244B2
Synthesis of 4-chloro-2-(hydroxymethyl)-6-((4-methoxyphenyl)-diazenyl)phenol.
In a 250 ml round bottom flask equipped with a magnetic stirrer was added 7.60 g (61.7 mmol) p-anisidine, 26 ml conc. HCl(aq), 150 ml absolute ethanol, and 150 ml deionized water. Sodium nitrite (4.58 g, 66.3 mmol) in 30 ml water was added dropwise over 30 minutes while keeping the reaction mixture at −10° C. The reaction mixture was stirred for an additional 1 hour. 300 mg sulfamic acid was added and the mixture was stirred for an additional 20 minutes. The solids were filtered out and the cold diazonium solution was set aside. (5-chloro-2-hydroxy-1,3-phenylene)dimethanol from Example 3 was dissolved in 100 ml deionized water. Approximately one-fourth by volume of a solution comprised of 12.7 g (318 mmol) NaOH in water was added to the (5-chloro-2-hydroxy-1,3-phenylene)dimethanol solution and the reaction mixture was cooled to 0° C. The diazonium mixture and remaining NaOH solution were added simultaneously to the (5-chloro-2-hydroxy-1,3-phenylene)dimethanol mixture over 30-60 minutes. The reaction mixture was stirred at room temperature for 16 hours. The mixture was poured into 3 L deionized water and acidified to pH 4 with 1 N HCl. The solid was filtered and washed with several liters water and vacuum dried at 50° C. to afford a dark solid.

reactant | p-anisidine | 61.7 mmol, 7.60 g | COC1=CC=C(C=C1)N | C7H9NO
reactant | HCl | 26 ml | Cl | ClH
reactant | Sodium nitrite | 66.3 mmol, 4.58 g | N(=O)[O-].[Na+]
reactant | sulfamic acid | 300 mg | S(N)(O)(=O)=O | H3NO3S
reactant | NaOH | 318 mmol, 12.7 g | [OH-].[Na+]
reactant | (5-chloro-2-hydroxy-1,3-phenylene)dimethanol | ClC=1C=C(C(=C(C1)CO)O)CO | C8H9ClO3
reactant | HCl | 1 N | Cl | ClH
solvent | water | 30 ml | O | H2O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 4-chloro-2-(hydroxymethyl)-6-((4-methoxyphenyl)-diazenyl)phenol | ClC1=CC(=C(C(=C1)N=NC1=CC=C(C=C1)OC)O)CO | C14H13ClN2O3
